US08497281B2
Step 2: cis-1,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-2-one
A mixture of 1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one (1.10 g), 10% palladium on carbon (0.15 g), acetic acid (0.75 mL), and methanol (20 mL) is shaken under hydrogen atmosphere (3 bar) at room temperature for 6 h. The catalyst is then separated by filtration and the filtrate is concentrated. The residue is triturated with tert-butyl methyl ether and dried to give the title compound as a colorless solid. Yield: 0.99 g (89% of theory); LC (method 1): tR=2.53 min; Mass spectrum (ESI+): m/z=188 [M+H]+.

reactant | 1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one | 1.10 g | N1C2=C(CCC1=O)C=1C=CC=CC1C2 | C12H11NO
reactant | acetic acid | 0.75 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | cis-1,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-2-one | N1[C@@H]2[C@H](CCC1=O)C=1C=CC=CC1C2 | C12H13NO
